US04454331
Preparation of tetrafluoroethyloxypropyl-trichlorosilane.
Each hour, 1.5 liters (11.3 moles) of tetrafluoroethylallylether, 1.3 liters (12.7 moles) trichlorosilane and 10 ml of a catalyst solution are added to the reactor. The catalyst solution is prepared by dissolving 19.4 g of tetrachlorodioctenediplatinum (II) in 1000 ml of chloroform.

reactant | tetrafluoroethylallylether | 11.3 moles, 1.5 liters | FC(C(F)(F)F)OCC=C | C5H6F4O
reactant | trichlorosilane | 12.7 moles, 1.3 liters | Cl[SiH](Cl)Cl | Cl3HSi
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | tetrafluoroethyloxypropyl-trichlorosilane | FC(C(F)(F)F)OCCC[Si](Cl)(Cl)Cl | C5H7Cl3F4OSi
